US05998436
Synthesis of 1-(6-amino-3,5-difluoropyridin-2-yl)-7-[(3S)-3-aminopyrrolidin-1-yl]-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid
To 250 mg of N,N-dimethylformamide were added 60 mg of 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid and 60 mg of (3S)-3-aminopyrrolidine, and the mixture was heated under reflux with stirring at 90° C. for 1 hour. After adding 1 ml of ethanol, the mixture was allowed to cool, and the precipitate was collected by filtration and washed with ethanol and diisopropylether successively to obtain 41 mg of the title compound as a pale brown powder.

reactant | N,N-dimethylformamide | 250 mg | CN(C=O)C | C3H7NO
reactant | 1-(6-amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 60 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | (3S)-3-aminopyrrolidine | 60 mg | N[C@@H]1CNCC1 | C4H10N2
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 1-(6-amino-3,5-difluoropyridin-2-yl)-7-[(3S)-3-aminopyrrolidin-1-yl]-8-chloro-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 41 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)N1C[C@H](CC1)N)F)=O)C(=O)O)F)F | C19H15ClF3N5O3
